US06492398B1
Form B—Preparations of 4-{[(7-oxo-6,7-dihydro-8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}-N-(4-pyridinylmethyl)-benzenesulfonamide
To a 250-ml round bottom flask was added a magnetic stir bar, 8-[ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one (1.98 grams, 8.05 mmol), 4-amino-N-(4-pyridinylmethyl)benzenesulfonamide (2.16 grams, 8.2 mmol) and 95% ethanol (80 ml). The round bottom reaction flask was fitted with a water cooled reflux condenser. The reaction vessel was placed in an oil bath at room temperature with stirring and the temperature of the oil bath was then raised to a gentle reflux and maintained at that temperature for approximately 36 hours. The reaction vessel was removed from the oil bath and the hot mixture was filtered with the solids being collected by suction filtration. The resultant solid was washed with excess 95% ethanol and collected by suction filtration. The solid was then dried under vacuum for two days at room temperature to yield 2.785 grams (74.7%) of the thiazolindolinone compound. MS (M+H)=464.

reactant | 8-[ethoxymethylidene]-6H-[1,3]thiazolo[5,4-e]indol-7-one | 8.05 mmol, 1.98 grams | C(C)OC=C1C(NC2=CC=C3C(=C12)SC=N3)=O | C12H10N2O2S
reactant | 4-amino-N-(4-pyridinylmethyl)benzenesulfonamide | 8.2 mmol, 2.16 grams | NC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=NC=C1 | C12H13N3O2S
reactant | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-{[(7-oxo-6,7-dihydro-8H-[1,3]thiazolo[5,4-e]indol-8-ylidene)methyl]amino}-N-(4-pyridinylmethyl)-benzenesulfonamide | 2.785 grams, 74.7% | O=C1NC2=CC=C3C(=C2C1=CNC1=CC=C(C=C1)S(=O)(=O)NCC1=CC=NC=C1)SC=N3 | C22H17N5O3S2
